US06316482B1
A mixture of N-[2-(5-ethoxycarbonylpent-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(3-nitro-2-phthalimidomethylcarbonylaminophenyl)carbonylaminobenzamide (3.96 g), iron powder (1.42 g) and acetic acid (3.05 g) in ethanol (50 ml) was refluxed for 4 hours and the solvent was removed under reduce pressure. The residue was stirred in a mixture of chloroform (100 ml) and saturated aqueous sodium hydrogen carbonate (100 ml) for 30 minutes and the solution was filtered through a bed of celite. The organic phase was separated and washed with brine. The solution was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was solidified with diethyl ether to give N-[2-(5-ethoxycarbonylpent-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(2-phthalimidomethyl-1H-benzimidazol-4-yl)carbonylaminobenzamide (3.64 g).

reactant | N-[2-(5-ethoxycarbonylpent-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(3-nitro-2-phthalimidomethylcarbonylaminophenyl)carbonylaminobenzamide | 3.96 g | C(C)OC(=O)CCCCCOC1=C(C=CC(=C1)C)N(C(C1=CC(=C(C=C1)NC(=O)C1=C(C(=CC=C1)[N+](=O)[O-])NC(=O)CN1C(C=2C(C1=O)=CC=CC2)=O)OC)=O)C | C41H41N5O11
reactant | acetic acid | 3.05 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | iron | 1.42 g | [Fe] | Fe
product | N-[2-(5-ethoxycarbonylpent-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(2-phthalimidomethyl-1H-benzimidazol-4-yl)carbonylaminobenzamide | 3.64 g | C(C)OC(=O)CCCCCOC1=C(C=CC(=C1)C)N(C(C1=CC(=C(C=C1)NC(=O)C1=CC=CC=2NC(=NC21)CN2C(C=1C(C2=O)=CC=CC1)=O)OC)=O)C | C41H41N5O8
